US06838574B1
To a mixed solution of 3-ethynylanisole (347.0 mg, 2.63 mmol), 3-iodoanisole (670.0 mg, 2.86 mmol, 1.1 eq), (PPh3)2PdCl2 (37.2 mg, 0.0530 mmol, 0.02 eq), CuI (5.1 mg, 0.0268 mmol, 0.01 eq) in THF (5 ml), diisopropylamine (0.57 g, 5.63 mmol, 2.1 eq) was added at 0° C., and stirred at room temperature for 1 h. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/15) to give bis(3-methoxyphenyl)ethyne (594.4 mg, 95.0%).

reactant | 3-ethynylanisole | 2.63 mmol, 347.0 mg | C(#C)C=1C=C(C=CC1)OC | C9H8O
reactant | 3-iodoanisole | 2.86 mmol, 670.0 mg, 1.1 eq | IC=1C=C(C=CC1)OC | C7H7IO
reactant | diisopropylamine | 5.63 mmol, 0.57 g, 2.1 eq | C(C)(C)NC(C)C | C6H15N
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | (PPh3)2PdCl2 | 0.0530 mmol, 37.2 mg, 0.02 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.0268 mmol, 5.1 mg, 0.01 eq | [Cu]I
product | bis(3-methoxyphenyl)ethyne | 594.4 mg, 95.0% | COC=1C=C(C=CC1)C#CC1=CC(=CC=C1)OC | C16H14O2
